US09388189B2
(S)—N-(3-Fluoro-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-2-methoxyethanesulfonamide
(S)—N-(3-Fluoro-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-2-methoxyethanesulfonamide (30 mg, 0.03 mmol, 78% purity) was treated with trifluoroacetic acid (600 μl, 7.79 mmol) and a solution of ammonia (7N in methanol, 600 μl, 4.20 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 14 mg (73% yield) of the title compound.

reactant | (S)—N-(3-Fluoro-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-2-methoxyethanesulfonamide | 0.03 mmol, 30 mg | FC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)CCOC | C36H43FN8O5SSi
reactant | trifluoroacetic acid | 7.79 mmol, 600 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 4.20 mmol, 7N, 600 μl | N | H3N
product | (S)—N-(3-Fluoro-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-2-methoxyethanesulfonamide | 14 mg, 73% yield | FC=1C=C(C=C(C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)CCOC | C30H29FN8O4S
